US04143143
40 g 1-(1-carbobenzoxyaminoethyl)-3,4-dihydro-6,7-dimethoxyisoquinoline are dissolved in 450 ml 40% HBr/acetic acid. The mixture is maintained at room temperature for 1 hour and then concentrated in a vacuum to give a crystalline residue of 1-(1-aminoethyl)-3,4-dihydro-6,7-dimethoxyisoquinoline dihydrobromide which is washed with ether before further use (M.Pt. 234°-235°).

reactant | 1-(1-carbobenzoxyaminoethyl)-3,4-dihydro-6,7-dimethoxyisoquinoline | 40 g | C(=O)(OCC1=CC=CC=C1)NC(C)C1=NCCC2=CC(=C(C=C12)OC)OC | C21H24N2O4
reactant | HBr acetic acid | 450 ml | Br.C(C)(=O)O
product | 1-(1-aminoethyl)-3,4-dihydro-6,7-dimethoxyisoquinoline dihydrobromide | Br.Br.NC(C)C1=NCCC2=CC(=C(C=C12)OC)OC | InChI=1S/C13H18N2O2.2BrH/c1-8(14)13-10-7-12(17-3)11(16-2)6-9(10)4-5-15-13;;/h6-8H,4-5,14H2,1-3H3;2*1H
